US04317769
9,10-Dihydro-1,3,7-trimethyl-9-hydroxy-9-phospha-10-oxaphenanthrene-9-oxide (268 g) is treated with an aqueous solution of sodium hypobromite at 60° C. in the same manner as in Example 6, to give about 250 g of 9,10-dihydro-1,3,7-trimethyl-6-bromo-9-hydroxy-9-phospha-10-oxaphenanthrene-9-oxide, exhibiting a phosphorus content of 8.7% (theoretical value: 8.77%), an acid value of 160 (theoretical value: 158,9) and a melting point of 260° C. or higher, which will be hereinafter referred to as CA-M1,3,7-B6.

reactant | 9,10-Dihydro-1,3,7-trimethyl-9-hydroxy-9-phospha-10-oxaphenanthrene-9-oxide | 268 g | CC1=CC(=CC=2C3=CC=C(C=C3P(OC12)(O)=O)C)C | C15H15O3P
reactant | sodium hypobromite | Br[O-].[Na+]
product | 9,10-dihydro-1,3,7-trimethyl-6-bromo-9-hydroxy-9-phospha-10-oxaphenanthrene-9-oxide | about 250 g | CC1=CC(=CC=2C3=CC(=C(C=C3P(OC12)(O)=O)C)Br)C | C15H14BrO3P
